US08022192B2
1,2-Dihydro-4-[(4-isopropoxyphenyl)methyl]-5-methyl-3H-pyrazol-3-one (1.00 g) was suspended in N,N-dimethyl-formamide (5 mL) at room temperature. In addition, potassium carbonate (0.319 g) was added to the suspension, and the mixture was stirred for 30 minutes. Acetic anhydride (0.412 g) was added to the mixture in a dropwise manner at room temperature. The mixture was stirred at room temperature overnight and at 50° C. for 2 hours. In addition, the mixed solution of glacial acetic acid (0.139 g) and water (5.0 g) was added to the reaction mixture under stirring at room temperature. After confirming the precipitation of the crystals, water (25 g) was added to the mixture. The obtained crystals were collected by filtration, washed with water and dried under reduced pressure to give a white solid of 1-acetyl-1,2-dihydro-4-[(4-isopropoxy-phenyl)methyl]-5-methyl-3H-pyrazol-3-one (0.90 g).

reactant | 1,2-Dihydro-4-[(4-isopropoxyphenyl)methyl]-5-methyl-3H-pyrazol-3-one | 1.00 g | C(C)(C)OC1=CC=C(C=C1)CC=1C(NNC1C)=O | C14H18N2O2
reactant | potassium carbonate | 0.319 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic anhydride | 0.412 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 0.139 g | C(C)(=O)O | C2H4O2
solvent | N,N-dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 5.0 g | O | H2O
product | 1-acetyl-1,2-dihydro-4-[(4-isopropoxy-phenyl)methyl]-5-methyl-3H-pyrazol-3-one | 0.90 g | C(C)(=O)N1NC(C(=C1C)CC1=CC=C(C=C1)OC(C)C)=O | C16H20N2O3
